US09290451B2
e) 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid ((S)-3-methyl-1-thiazol-2-yl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-(3-chlorophenyl)-2-pyridinecarboxylic acid (CAN 863704-38-5) and (S)-α-(2-methylpropyl)-2-thiazolemethanamine as starting materials, MS (LC/MS): 386.1 [M+H]+.

reactant | 6-(3-chlorophenyl)-2-pyridinecarboxylic acid | ClC=1C=C(C=CC1)C1=CC=CC(=N1)C(=O)O | C12H8ClNO2
reactant | (S)-α-(2-methylpropyl)-2-thiazolemethanamine | CC(C[C@H](N)C=1SC=CN1)C | C8H14N2S
product | 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid ((S)-3-methyl-1-thiazol-2-yl-butyl)-amide | CC(C[C@@H](C=1SC=CN1)NC(=O)C1=NC(=CC=C1)C1=CC(=CC=C1)Cl)C | C20H20ClN3OS
